US06169183A
Preparation of ethyl 5-trifluoromethyl-3-chloropyridine-2-carboxylate
The reaction was carried out in a 100 ml stainless steel autoclave equipped with a magnetic stirring bar. The reagents were charged in a teflon liner in the following order: (1) ethanol (20 ml), (2) sodium acetate (1.70 g, 20 mmol), (3) 2,3-dichloro-5-trifluoromethylpyridine (2.16 g [97 percent], 10 mmol), (4)1,1′-bis(diphenylphosphino)ferrocene (166 mg, 0.30 mmol [3 mol percent]), and (5) palladium acetate (12 mg, 0.05 mmol [0.5 mol percent]). The air in the autoclave was replaced with carbon monoxide and the pressure adjusted to 15 bar. The reaction mixture was then heated to 80° C. (jacket temperature) and the reaction was carried out with stirring. After 5 hours, the reaction mixture was cooled to room temperature, filtered through celite, GC analysis indicated that the mixture consisted of 98 percent of ethyl 5-trifluoromethyl-3-chloropyridine-2-carboxylate. The mixture was concentrated under vacuum and the product was isolated by flash chromatography on silica gel eluting with ethyl acetate/hexane (1:4) affording 2.34 g (92 percent, <99 percent GC area percent). Other data concerning the product was:

reactant | sodium acetate | 20 mmol, 1.70 g | C(C)(=O)[O-].[Na+]
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 10 mmol, 2.16 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium acetate | 0.05 mmol, 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 5-trifluoromethyl-3-chloropyridine-2-carboxylate | FC(C=1C=C(C(=NC1)C(=O)OCC)Cl)(F)F | C9H7ClF3NO2
